US06559162B2
2-(Acetyloxy)-1,1-dimethylethyl 1H-Imidazole-1-carboxylate
A mixture of 2-hydroxy-2-methylpropyl acetate (3.35 g, 25.3 mmol) and 1,1′-carbonyldiimidazole (4.11 g, 25.3 mmol) in DCM was stirred for 8 h at rt. The mixture was then transferred to a closed vessel and heated to 100° C. overnight. The mixture was concentrated in vacuo before ether and water were added. The organic phase was separated, dried and concentrated in vacuo. The resulting residue was purified by chromatography on silica gel, eluting with THF:heptane (1:1), to give the title compound in 20% yield.

reactant | 2-hydroxy-2-methylpropyl acetate | 25.3 mmol, 3.35 g | C(C)(=O)OCC(C)(C)O | C6H12O3
reactant | 1,1′-carbonyldiimidazole | 25.3 mmol, 4.11 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-(Acetyloxy)-1,1-dimethylethyl 1H-Imidazole-1-carboxylate | 20% yield | N1(C=NC=C1)C(=O)OC(COC(C)=O)(C)C | C10H14N2O4
